US05650410
Oily sodium hydride (60%, 0.753 g) was added to a solution of thiomorpholine (1.8 g) in N,N-dimethylformamide (50 ml), and the mixture was stirred at room temperature for 15 minutes. Then ethyl 2-chloromethyl-4-(3,4-dimethoxyphenyl)-6,7-dimethoxyquinoline-3-carboxylate (6.0 g) was added. The mixture was stirred at room temperature overnight, poured into water and extracted with ethyl acetate. The ethyl acetate layer was washed with water and dried over magnesium sulfate, and the solvent was evaporated. The residue was subjected to column chromatography on silica gel. The fractions eluted with chloroform-ethyl acetate (7:3, v/v) gave ethyl 4-(3,4-dimethoxyphenyl)-6,7-dimethoxy-2-thiomorpholinomethylquinoline-3-carboxylate (1.4 g, 42%). This compound was recrystallized from ethanol. Colorless prisms, mp. 148°-149° C.

reactant | sodium hydride | 0.753 g | [H-].[Na+]
reactant | thiomorpholine | 1.8 g | N1CCSCC1 | C4H9NS
reactant | ethyl 2-chloromethyl-4-(3,4-dimethoxyphenyl)-6,7-dimethoxyquinoline-3-carboxylate | 6.0 g | ClCC1=NC2=CC(=C(C=C2C(=C1C(=O)OCC)C1=CC(=C(C=C1)OC)OC)OC)OC | C23H24ClNO6
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | ethyl 4-(3,4-dimethoxyphenyl)-6,7-dimethoxy-2-thiomorpholinomethylquinoline-3-carboxylate | 1.4 g, 42% | COC=1C=C(C=CC1OC)C1=C(C(=NC2=CC(=C(C=C12)OC)OC)CN1CCSCC1)C(=O)OCC | C27H32N2O6S
